US07476688B2
(Step 1) tert-Butyl 2-oxo-4-propyl-1-pyrrolidinecarboxylate
Triethylamine (81.4 ml, 10 mmol), tert-butyl dicarbonate (4.2 g, 19.2 mmol) and dimethylaminopyridine (1.18 g, 9.58 mmol) were added to a solution of 4-propyl-2-pyrrolidinone (1.22 g, 9.59 mmol) in methylene chloride (20 ml) and the mixture was stirred at room temperature for 12 hours. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (1.35 g) as a colorless oil. 1H-NMR (CDCl3) δ(ppm) 0.93 (3H, t, J=7.2 Hz), 1.28-1.50 (4H, m), 1.52 (9H, s), 2.14-2.32 (2H, m), 2.61 (1H, dd, J=15.0 Hz, 7.0 Hz), 3.30 (1H, dd, J=10.8 Hz, 7.2 Hz), 3.87 (1H, dd, J=10.8 Hz, 8.0 Hz)

reactant | Triethylamine | 10 mmol, 81.4 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl dicarbonate | 19.2 mmol, 4.2 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
reactant | dimethylaminopyridine | 9.58 mmol, 1.18 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 4-propyl-2-pyrrolidinone | 9.59 mmol, 1.22 g | C(CC)C1CC(NC1)=O | C7H13NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-oxo-4-propyl-1-pyrrolidinecarboxylate | 1.35 g | O=C1N(CC(C1)CCC)C(=O)OC(C)(C)C | C12H21NO3
